US06451821B1
a solution of 0.56 g of N-(tert-butyl)-N′-[(1RS)-1-hydroxymethyl-2-(5-thiazolyl)ethyl]thiourea in 5.5 cm3 of 6N hydrochloric acid is heated at a temperature in the region of 110° C. for 3 hours. The reaction medium is concentrated under reduced pressure (1 kPa) at a temperature in the region of 60° C., taken up in 4 cm3 of ethanol and 6 cm3 of diethyl ether and evaporated under the same conditions as above. The residue is taken up in 6 cm3 of ethanol and filtered, and the solid is dried in a desiccator under reduced pressure (0.1 kPa) at a temperature in the region of 40° C. and then dissolved in 5.5 cm3 of 6N hydrochloric acid solution and refluxed at a temperature in the region of 110° C. for 9 hours. The reaction medium is concentrated under reduced pressure (1 kPa) at a temperature in the region of 40° C. and dried in a desiccator under reduced pressure (0.1 kPa) at a temperature in the region of 40° C., to give 0.54 g of (4RS)-4-(5-thiazolylmethyl)-4,5-dihydro-thiazol-2-ylamine dihydrochloride in the form of a pasty solid [1HNMR spectrum (300 MHz, (CD3)2SO-d6, δ in ppm): from 3.20 to 3.40 (mt: 3H); from 3.60 to 3.80 (mt: 1H); 4.57 (mt: 1H); 7.85 (s, 1H); 9.10 (s: 1H); 9.26 (unresolved complex: 1H); 9.66 (unresolved complex: 1H); 10.13 (broad s: 1H].

reactant | N-(tert-butyl)-N′-[(1RS)-1-hydroxymethyl-2-(5-thiazolyl)ethyl]thiourea | 0.56 g | C(C)(C)(C)NC(=S)NC(CC1=CN=CS1)CO | C11H19N3OS2
reactant | hydrochloric acid | 6N, 5.5 cm3 | Cl | ClH
product | (4RS)-4-(5-thiazolylmethyl)-4,5-dihydro-thiazol-2-ylamine dihydrochloride | 0.54 g | Cl.Cl.S1C=NC=C1CC1N=C(SC1)N | InChI=1S/C7H9N3S2.2ClH/c8-7-10-5(3-11-7)1-6-2-9-4-12-6;;/h2,4-5H,1,3H2,(H2,8,10);2*1H
